US05240928
Step 3: N-Triphenylmethyl-5-(4-fluoro-4'-bromomethyl-biphen-2-yl)tetrazole
To a solution of N-Triphenylmethyl-5-(4-fluoro-4'-methyl-biphen-2-yl)tetrazole (454.4 mg; 0.9161 mmol) in dry CCl4 (8 mL) was added N-bromosuccinimide (179.2 mg; 1.1 eq) and a catalytic amount of AIBN. The reaction was heated to reflux (105°-115°) under N2. After 3 hrs. the reaction was cooled and filtered through a cotton plugged pipet to remove the succinimide formed. The solvent was removed and replaced by EtOAc/Et2O. The reaction was washed with 1N NaOH and brine. The organic solution was dried over anhydrous MgSO4, filtered, and concentrated in vacuo to afford the product. The crude product was used in the next reaction.

reactant | N-Triphenylmethyl-5-(4-fluoro-4'-methyl-biphen-2-yl)tetrazole | 0.9161 mmol, 454.4 mg | C1(=CC=CC=C1)C(N1N=NN=C1C1=CC(=CC=C1C1=CC=C(C=C1)C)F)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25FN4
reactant | N-bromosuccinimide | 179.2 mg, 1.1 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 8 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-Triphenylmethyl-5-(4-fluoro-4'-bromomethyl-biphen-2-yl)tetrazole | C1(=CC=CC=C1)C(N1N=NN=C1C1=CC(=CC=C1C1=CC=C(C=C1)CBr)F)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H24BrFN4
